US07737136B2
4-Chloro-N-methyl-2-nitro-N-phenylphenylamine (Structure 62 of Scheme XVI)
4-Chloro-1-fluoro-2-nitrobenzene (20.0 g, 0.11 mol) and K2CO3 (15.7 g, 0.11 mol) were dissolved in N-methylaniline (37 mL, 0.34 mol) and subsequently heated to 180° C. After 5 h, the reaction mixture was cooled to room temperature, diluted with CH2Cl2 (750 mL) and washed with H2O (500 mL), aq. citric acid (5% 500 mL) and brine (500 mL). The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The residual oil was chromatographed over silica (cyclohexane/CH2Cl2, 9/1, v/v) giving title compound containing ˜30% starting material. The compound was subsequently stirred in cold hexane and the resulting red crystals were filtered resulting in pure crystalline product (16.5 g, 57% yield). Data: melting point: 59-62° C., Rf 0.65 (cyclohexane/ethyl acetate, 4/1, v/v).

reactant | 4-Chloro-1-fluoro-2-nitrobenzene | 0.11 mol, 20.0 g | ClC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | K2CO3 | 0.11 mol, 15.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methylaniline | 0.34 mol, 37 mL | CNC1=CC=CC=C1 | C7H9N
solvent | CH2Cl2 | 750 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-methyl-2-nitro-N-phenylphenylamine | ClC1=CC(=C(C=C1)N(C1=CC=CC=C1)C)[N+](=O)[O-] | C13H11ClN2O2
